US07179823B1
A mixture of ethyl 3-[4-phenyl-1-[4-[2-(2-pyrazinyl)-4-thiazolylmethoxy]benzyl]-3-pyrrolyl]propionate (629 mg), 1N aqueous sodium hydroxide solution (2.5 ml), tetrahydrofuran (5 ml) and ethanol (5 ml) was stirred at room temperature overnight and 1N hydrochloric acid (2.5 ml) was added, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and then concentrated. The colorless crystals obtained were collected by filtration to yield 3-[4-phenyl-1-[4-[2-(2-pyrazinyl)-4-thiazolylmethoxy]benzyl]-3-pyrrolyl]propionic acid (523 mg, yield: 88%) as colorless crystals. This was recrystallized from ethanol. Melting point: 137–138° C.

reactant | ethyl 3-[4-phenyl-1-[4-[2-(2-pyrazinyl)-4-thiazolylmethoxy]benzyl]-3-pyrrolyl]propionate | 629 mg | C1(=CC=CC=C1)C=1C(=CN(C1)CC1=CC=C(C=C1)OCC=1N=C(SC1)C1=NC=CN=C1)CCC(=O)OCC | C30H28N4O3S
reactant | sodium hydroxide | 1N, 2.5 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N, 2.5 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-[4-phenyl-1-[4-[2-(2-pyrazinyl)-4-thiazolylmethoxy]benzyl]-3-pyrrolyl]propionic acid | 523 mg, yield: 88% | C1(=CC=CC=C1)C=1C(=CN(C1)CC1=CC=C(C=C1)OCC=1N=C(SC1)C1=NC=CN=C1)CCC(=O)O | C28H24N4O3S
